US05294612
To a solution of 1-cyclopentyl-6-(4-pyridyl)-pyrazolo(3,4-d)pyrimidin-4-amine (3.0 g, 0.011 mole) in water 60 ml) at room temperature was added bromine (1.8 g, 0.011 mol). The reaction mixture was stirred at room temperature for 1 hour, then was heated on a steam bath for 2 hours. The solvent was removed in vacuo and the residue was suspended in water. Ammonium hydroxide was added followed by acetic acid until a pH of 4-5 was obtained. A solid was collected by filtration and washed with water. Water (60 ml) and bromine (0.3 ml, 0.006 mol) were added to the solid residue and the mixture was heated on a steam bath for 1 hour. The mixture was poured into ice-water and ammonium hydroxide, then acetic acid was added. A solid was collected by filtration, dissolved in ethyl acetate, dried over MgSO4 and concentrated in vacuo to afford 2.2 g (56%) of 1-cyclopentyl-3-bromo-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine, m.p. 189°-191° C.

reactant | 1-cyclopentyl-6-(4-pyridyl)-pyrazolo(3,4-d)pyrimidin-4-amine | 0.011 mole, 3.0 g | C1(CCCC1)N1N=CC=2C1=NC(=NC2N)C2=CC=NC=C2 | C15H16N6
reactant | bromine | 0.011 mol, 1.8 g | BrBr | Br2
reactant | bromine | 0.006 mol, 0.3 ml | BrBr | Br2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 60 ml | O | H2O
solvent | Water | 60 ml | O | H2O
product | 1-cyclopentyl-3-bromo-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-amine | 2.2 g, 56% | C1(CCCC1)N1N=C(C=2C1=NC(=NC2N)C2=CC=NC=C2)Br | C15H15BrN6
